US05665718
13 g (29.5 mmol) of 5,6-dihydro-5-methyl-3-(3-phthalimidomethyl-1,2,4-oxadiazol-5-yl)-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one were stirred with 90 ml of methylamine (33% in ethanol) and 40 ml of ethanol at 80° for 3 hours. The solution was concentrated, the residue was taken up in methylene chloride and 53 ml of 4N hydrochloric acid and the solution was washed three times with methylene chloride. The aqueous phase was made alkaline with 55 ml of 4N sodium hydroxide solution and extracted six times with methylene chloride. After drying the combined organic solutions and evaporating the solvent there were obtained 9 g (100%) of (3-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-5,6-dihydro-5-methyl-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one of m.p. 183°-185°, which was used without further purification as the starting material for the Example described hereinafter.

reactant | 5,6-dihydro-5-methyl-3-(3-phthalimidomethyl-1,2,4-oxadiazol-5-yl)-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 29.5 mmol, 13 g | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C2=NC(=NO2)CN2C(C=3C(C2=O)=CC=CC3)=O | C23H16N6O4
reactant | methylamine | 90 ml | CN | CH5N
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 3-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-5,6-dihydro-5-methyl-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | NCC1=NOC(=N1)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C15H14N6O2
